US05283251
A mixture of methyl 3-(chloroformyl)propionate (3 ml) and aluminum chloride [6.50 g) in dichloromethane (40 ml) was stirred at 20° C. for 1 hour. A solution of 2-methylindole (3 g) in dichloromethane (20 ml) was added to the mixture at 20° C. and the resulting mixture was stirred at 20° C. for 1 hour. The reaction mixture was poured into a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of solvent, the residue was purified by column chromatography on silica gel (100 g) eluting with chloroform and with recrystallization from a mixture of ethyl acetate and hexane to give methyl 4-(2-methylindol-3-yl)-4-oxobutyrate (908 mg) as pale brown crystals.

reactant | methyl 3-(chloroformyl)propionate | 3 ml | ClC(=O)CCC(=O)OC | C5H7ClO3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methylindole | 3 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-methylindol-3-yl)-4-oxobutyrate | 908 mg | CC=1NC2=CC=CC=C2C1C(CCC(=O)OC)=O | C14H15NO3
